### PR TITLE
[ new ] useful modular arithmetic

### PR DESCRIPTION
**Pull request by MatthewDaggitt**
This attempts to build a more practical modular arithmetic library than currently exists. In particular it defines a new modulus operator `_%_` which returns a `ℕ` instead of the old `_mod_` which returns a `Fin divisor`. This new operator is **much** easier to  write arithmetic expressions with and prove properties of.

This was inspired by the problems caused by `_mod_` in #143. Namely the unsafe `_mod_` pollutes a large section of the `Data.Nat` hierarchy. Consequently I've adjusted `Data.Nat.Divisibility` to use `_%_` rather than `_mod_`. This has massively cleaned up several proofs. 

Accordingly `_mod_` and `_divMod_` can now be relegated to `Data.Nat.DivMod.Unsafe` in some future PR.

Outstanding questions:
* Naming convention for proofs about `_%_`. Obviously the proofs require the use of `suc n` rather than `n`, but the names don't signal this. Is everyone okay with this? Or do people have suggestions for an alternative naming convention signalling this?
* Is everyone happy if I got rid of the very ugly `nonZeroDivisor-lemma` proof in `Data.Nat.Divisibility`. It was required for the decidability of divisibility but isn't required any more now that we're using the new `_%_`.
* I'm wondering if I should later on relegate the name `_div_` to `Data.Nat.DivMod.Unsafe` as well, and have the name `_/_` instead to better match `_%_`?

Oh and if anyone can find a way of shrinking the `mod-helper` proofs in `Data.Nat.DivMod.Core` feel free!

### CODE REVIEW

**Comment by gallais** [comment]
I got a bit sidetracked looking at `DivMod.Core` and started wondering whether we
could give a satisfying inductive specification of `mod-helper` (and `div-helper`)
that would allow us to prove theorems more easily by induction over this spec.

So far I have:

```agda
data _IsMod_Of_ (v n k : ℕ) : Set where
  base : v ≡ k → k < n → v IsMod n Of k
  step : ∀ {k′} → k ≡ k′ + n → v IsMod n Of k′ → v IsMod n Of k

mod-specification : ∀ k m n j i → k + j ≡ m → i ≡ n + k →
                    modₕ k m n j IsMod suc m Of i
mod-specification k m zero    j       i inv refl =
  base refl (s≤s (subst (k ≤_) inv (≤-stepsʳ j ≤-refl)))
mod-specification k m (suc n) zero    i inv eq   =
  step eq′ (mod-specification 0 m n m n refl (sym (+-identityʳ n))) where

  eq′ = begin
    i               ≡⟨ eq ⟩
    suc n + k       ≡⟨ sym (+-suc n k) ⟩
    n + suc k       ≡⟨ cong (n +_) (sym (+-identityʳ (suc k))) ⟩
    n + suc (k + 0) ≡⟨ cong ((n +_) ∘ suc) inv ⟩
    n + suc m ∎
mod-specification k m (suc n) (suc j) i inv eq   =
  mod-specification (suc k) m n j i inv′ eq′ where

  inv′ = begin
    suc k + j ≡⟨ sym (+-suc k j) ⟩
    k + suc j ≡⟨ inv ⟩
    m ∎

  eq′ = begin
    i         ≡⟨ eq ⟩
    suc n + k ≡⟨ sym (+-suc n k) ⟩
    n + suc k ∎
```

I suspect we can do something similar for `div-helper`. However it'd be nice to
have an inductive specification relating both helper functions. I can't quite get
the right set of invariants at the moment though. I'll come back to it later.

**Comment by UlfNorell** [comment]
For reference, here's the divmod implementation of agda-prelude:

https://github.com/UlfNorell/agda-prelude/blob/master/src/Numeric/Nat/DivMod.agda

**Comment by gallais** [comment]
Ok this is what I got. Now I'll have to check whether using `DivModSpec` allows for shorter proofs.

```agda
data DivModSpec (n k : ℕ) : (d m : ℕ) → Set where
  base : k < n → DivModSpec n k 0 k
  step : ∀ {k′ d m} → k ≡ k′ + n → DivModSpec n k′ d m → DivModSpec n k (suc d) m

div-mod-spec :
  ∀ kd km m n j i → km + j ≡ m → i ≡ n + km →
  ∃ λ v → divₕ kd m n j ≡ kd + v
        × DivModSpec (suc m) i v (modₕ km m n j)
div-mod-spec kd km m zero    j       i inv refl =
  0 , sym (+-identityʳ kd) , base (s≤s (subst (km ≤_) inv (≤-stepsʳ j ≤-refl)))
div-mod-spec kd km m (suc n) zero    i inv eq
  with div-mod-spec (suc kd) 0 m n m n refl (sym (+-identityʳ n))
... | (v , eqv , pr) = suc v , eqv′ , step eq′ pr where

  eqv′ = begin
    divₕ (suc kd) m n m ≡⟨ eqv ⟩
    suc (kd + v)        ≡⟨ sym (+-suc kd v) ⟩
    kd + suc v ∎

  eq′ = begin
    i                ≡⟨ eq ⟩
    suc (n + km)     ≡⟨ sym (+-suc n km) ⟩
    n + suc km       ≡⟨ cong ((n +_) ∘ suc) (sym (+-identityʳ km)) ⟩
    n + suc (km + 0) ≡⟨ cong ((n +_) ∘ suc) inv ⟩
    n + suc m ∎

div-mod-spec kd km m (suc n) (suc j) i inv eq =
  div-mod-spec kd (suc km) m n j i inv′ eq′ where

  inv′ = begin
    suc km + j ≡⟨ sym (+-suc km j) ⟩
    km + suc j ≡⟨ inv ⟩
    m ∎

  eq′ = begin
    i          ≡⟨ eq ⟩
    suc n + km ≡⟨ sym (+-suc n km) ⟩
    n + suc km ∎
```

File: CHANGELOG.md [hunk 1]
```diff
@@ -129,6 +134,28 @@ Other minor additions
   ∈-∃++    : v ∈ xs → ∃₂ λ ys zs → ∃ λ w → v ≈ w × xs ≋ ys ++ [ w ] ++ zs
   ```
 
+* Added new proofs to `Data.Nat.Divisibility`:
+  ```agda
+  n∣m⇒m%n≡0 : suc n ∣ m → m % (suc n) ≡ 0
+  m%n≡0⇒n∣m : m % (suc n) ≡ 0 → suc n ∣ m
+  m%n≡0⇔n∣m : m % (suc n) ≡ 0 ⇔ suc n ∣ m
+  ```
```
Comment (gallais) [inline CHANGELOG.md]: I think the names are perfectly fine.

File: src/Data/Fin/Properties.agda [hunk 2]
```diff
@@ -131,6 +131,13 @@ fromℕ≤≡fromℕ≤″ (s≤s z≤n)       (ℕ.less-than-or-equal refl) = r
 fromℕ≤≡fromℕ≤″ (s≤s (s≤s m<n)) (ℕ.less-than-or-equal refl) =
   cong suc (fromℕ≤≡fromℕ≤″ (s≤s m<n) (ℕ.less-than-or-equal refl))
 
+toℕ-fromℕ≤″ : ∀ {m n} (m<n : m ℕ.<″ n) → toℕ (fromℕ≤″ m m<n) ≡ m
+toℕ-fromℕ≤″ {m} {n} m<n = begin
+  toℕ (fromℕ≤″ m m<n)  ≡⟨ cong toℕ (sym (fromℕ≤≡fromℕ≤″ _ m<n)) ⟩
+  toℕ (fromℕ≤ _)       ≡⟨ toℕ-fromℕ≤ (ℕₚ.≤″⇒≤ m<n) ⟩
+  m ∎
+  where open P.≡-Reasoning
+
```
Comment (gallais) [inline src/Data/Fin/Properties.agda]: Cosmetic nitpick: these days I quite like `let open P.≡-Reasoning in begin (...)` on the
top line (or rather `let open RawMonad m in do (...)` in my case) because it makes the kit
we are using explicit for the reader.

File: src/Data/Nat/DivMod.agda [hunk 3]
```diff
@@ -6,143 +6,115 @@
...
-    toℕ (Fin.fromℕ≤    lemma)  + div-helper 0 s d s * suc s  ≡⟨ P.cong (λ n → toℕ n + div-helper 0 s d s * suc s)
-                                                                       (FinP.fromℕ≤≡fromℕ≤″ lemma _) ⟩
-    toℕ (Fin.fromℕ≤″ _ lemma′) + div-helper 0 s d s * suc s  ∎))
+(a divMod 0) {}
+(a divMod suc n) = result (a div suc n) (a mod suc n)
+  (TrustMe.erase (begin
+    a                                                ≡⟨ a≡a%n+[a/n]*n a n ⟩
+    (a % suc n)             + (a div suc n) * suc n  ≡⟨ cong₂ _+_ (sym (toℕ-fromℕ≤″ lemma′)) refl ⟩
+    toℕ (fromℕ≤″ _ lemma′) + (a div suc n) * suc n  ∎))
   where
```
Comment (gallais) [inline src/Data/Nat/DivMod.agda]: Is it worth naming `a div suc n` here? It's used 3 times (once in result + twice in the proof).
I would also write `$ TrustMe.erase $ begin` instead of the parentheses around the big block.

File: src/Data/Nat/DivMod/Core.agda [hunk 4]
```diff
@@ -0,0 +1,98 @@
...
+  suc accᵈ * suc accᵐ + d                 ≡⟨ division-lemma zero (suc accᵈ) d accᵐ ⟩
+  modₕ 0          accᵐ d accᵐ +
+  divₕ (suc accᵈ) accᵐ d accᵐ * suc accᵐ  ≡⟨⟩
+  modₕ accᵐ accᵐ (suc d) 0 +
+  divₕ accᵈ accᵐ (suc d) 0 * suc accᵐ      ∎
+division-lemma accᵐ accᵈ (suc d) (suc n) rewrite +-suc accᵐ n = begin
+  accᵐ + accᵈ * (2 + accᵐ + n) + suc d             ≡⟨ +-suc _ d ⟩
+  suc (accᵐ + accᵈ * (2 + accᵐ + n) + d)           ≡⟨ division-lemma (suc accᵐ) accᵈ d n ⟩
+  modₕ (suc accᵐ) (suc (accᵐ + n)) d n +
+  divₕ accᵈ (suc (accᵐ + n)) d n * (2 + accᵐ + n)  ∎
```
Comment (gallais) [inline src/Data/Nat/DivMod/Core.agda]: Maybe worth naming `2 + accᵐ + n` here.

File: src/Data/Nat/DivMod/Core.agda [hunk 5]
```diff
@@ -0,0 +1,98 @@
...
+  modₕ 0   acc (a + suc acc)       acc ≡⟨ a+n[modₕ]n≡a[modₕ]n 0 a acc ⟩
+  modₕ 0   acc a                   acc ∎
+a+n[modₕ]n≡a[modₕ]n acc (suc a) (suc n) rewrite +-suc acc n = begin
+  modₕ acc       (suc acc + n) (acc + suc a + suc (suc n)) (suc n) ≡⟨ cong (λ v → modₕ acc (suc acc + n) (v + suc (suc n)) (suc n)) (+-suc acc a) ⟩
+  modₕ acc       (suc acc + n) (suc acc + a + suc (suc n)) (suc n) ≡⟨⟩
+  modₕ (suc acc) (suc acc + n) (acc + a + (suc (suc n)))   n       ≡⟨ cong (λ v → modₕ (suc acc) (suc acc + n) v n) (sym (+-assoc (acc + a) 1 (suc n))) ⟩
+  modₕ (suc acc) (suc acc + n) (acc + a + 1 + suc n)       n       ≡⟨ cong (λ v → modₕ (suc acc) (suc acc + n) (v + suc n) n) (+-comm (acc + a) 1) ⟩
+  modₕ (suc acc) (suc acc + n) (suc acc + a + suc n)       n       ≡⟨ a+n[modₕ]n≡a[modₕ]n (suc acc) a n ⟩
+  modₕ (suc acc) (suc acc + n) a                           n       ∎
+
```
Comment (gallais) [inline src/Data/Nat/DivMod/Core.agda]: Probably worth naming `modₕ acc (suc acc + n)` and `modₕ (suc acc) (suc acc + n)` here.
They are used in the expressions and the `cong`s!

File: src/Data/Nat/Divisibility.agda [hunk 6]
```diff
@@ -179,6 +182,33 @@ module _ where
...
+
+-- Divisibility is decidable.
+
+infix 4 _∣?_
+
+_∣?_ : Decidable _∣_
+zero  ∣? zero   = yes (0 ∣0)
+zero  ∣? suc m  = no ((λ()) ∘′ 0∣⇒≡0)
+suc n ∣? m      = Dec.map (m%n≡0⇔n∣m m n) (m % (suc n) ≟ 0)
+
```
Comment (gallais) [inline src/Data/Nat/Divisibility.agda]: nice!

File: src/Data/Nat/Divisibility.agda [hunk 7]
```diff
@@ -179,6 +182,33 @@ module _ where
...
+    m           % (suc n) ≡⟨ cong (_% (suc n)) eq ⟩
+    (v * suc n) % (suc n) ≡⟨ kn%n≡0 v n ⟩
+    0                     ∎
+
+  m%n≡0⇔n∣m : ∀ m n → m % (suc n) ≡ 0 ⇔ suc n ∣ m
+  m%n≡0⇔n∣m m n = record
+    { to   = PropEq.→-to-⟶ (m%n≡0⇒n∣m m n)
+    ; from = PropEq.→-to-⟶ (n∣m⇒m%n≡0 m n)
+    }
+
```
Comment (gallais) [inline src/Data/Nat/Divisibility.agda]: I have learned today that this one can be constructed using the function [`equivalence`](https://agda.github.io/agda-stdlib/Function.Equivalence.html#804)

File: src/Data/Fin/Properties.agda (hunk 2 above)
Comment (MatthewDaggitt) [reply src/Data/Fin/Properties.agda]: Hmm, we use the "where" syntax throughout the library. It would be quite an undertaking to change it all. I feel that given it is cosmetic, maybe better to stick with being consistent for the moment.

File: src/Data/Nat/Divisibility.agda (hunk 7 above)
Comment (MatthewDaggitt) [reply src/Data/Nat/Divisibility.agda]: Neat. Now if only I can find all the previous places where I've seen this pattern!

Comment (gallais) [reply src/Data/Nat/Divisibility.agda]: Should I open a new issue with the result of `find . -name "*.agda" | xargs grep "from.*=.*→-to-⟶"`? :D

**Comment by MatthewDaggitt** [comment]
Go for it!
